US03931407
a. 2-(p-Methylphenacyl)cyclohexanone ##SPC72##
A solution of 50 g. (0.23 mole) of p-methylphenacyl bromide in 120 ml. of dry dimethyl formamide was added dropwise during 1/2 hour into a stirred, cooled solution of 35.4 g. (0.23 mole) of 1-pyrrolidino-1-cyclohexene in 200 ml. of dimethyl formamide at a rate to maintain a temperature of 25°. After 51/2 hours, the solution was diluted with water and extracted with chloroform. The chloroform solution was washed with water, dried over sodium sulfate and concentrated to an oil. Distillation gave 28.5 g. (53%) of liquid, b.p. 161°-165° (0.2 mm.), which solidifed (m.p. 65°-70°).

reactant | p-methylphenacyl bromide | 0.23 mole | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | 1-pyrrolidino-1-cyclohexene | 0.23 mole | N1(CCCC1)C1=CCCCC1 | C10H17N
solvent | water | O | H2O
product | 2-(p-Methylphenacyl)cyclohexanone | CC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C15H18O2
